US07348339B2
Step 1. (2-Chloro-5-nitro-pyridin-4-yl)-(4-methoxyphenyl)-amine
Anisole (908 mg, 7.4 mmol) was added to a solution of 2,4-dichloro-5-nitropyridine (1.30 g, 6.7 mmol) and triethylamine (1.02 mL, 7.4 mmol) in THF (5 mL). The mixture was allowed to stir at rt for 1 h, then was poured into H2O and extracted with EtOAc. The organic layers were washed with H2O and brine, dried, filtered and concentrated to a residue which was purified by column chromatography (5-50% EtOAc in hex) to give the title compound as an orange solid, 1.46 g (78%). MS (ES+) m/e 280 [M+H]+.

reactant | Anisole | 7.4 mmol, 908 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | 2,4-dichloro-5-nitropyridine | 6.7 mmol, 1.30 g | ClC1=NC=C(C(=C1)Cl)[N+](=O)[O-] | C5H2Cl2N2O2
reactant | triethylamine | 7.4 mmol, 1.02 mL | C(C)N(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-Chloro-5-nitro-pyridin-4-yl)-(4-methoxyphenyl)-amine | ClC1=NC=C(C(=C1)NC1=CC=C(C=C1)OC)[N+](=O)[O-] | C12H10ClN3O3
